US07384934B2
2-Cyclopropyl-7-fluoro-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
Heat a solution of 5-cyclopropyl-2-(5-fluoro-2-nitro-phenylamino)-benzonitrile (0.447 g, 1.50 mmol) in ethanol (7 ml) to 60° C. Add a solution of tin (II) chloride (0.855 g, 4.51 mmol) in 5.0 N hydrochloric acid (7 ml) and heat the resulting mixture to reflux for 16 hours. Cool the reaction to room temperature, add 25 ml of 5.0 N hydrochloric acid and place the mixture in a freezer for 16 hours. Collect by filtration the precipitated product from the solution. Wash solid with 5.0 N hydrochloric acid to obtain 0.277 g of the title compound (0.91 mmol, 61% yield) as a yellow amorphous solid: Mass Spectrum (m/e): 268(M+1).

reactant | 5-cyclopropyl-2-(5-fluoro-2-nitro-phenylamino)-benzonitrile | 1.50 mmol, 0.447 g | C1(CC1)C=1C=CC(=C(C#N)C1)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C16H12FN3O2
reactant | tin (II) chloride | 4.51 mmol, 0.855 g | [Sn](Cl)Cl
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 5.0 N, 7 ml | Cl | ClH
solvent | hydrochloric acid | 5.0 N, 25 ml | Cl | ClH
product | 2-Cyclopropyl-7-fluoro-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 0.91 mmol, 0.277 g, 61% yield | Cl.C1(CC1)C1=CC2=C(NC3=C(N=C2N)C=CC(=C3)F)C=C1 | InChI=1S/C16H14FN3.ClH/c17-11-4-6-14-15(8-11)19-13-5-3-10(9-1-2-9)7-12(13)16(18)20-14;/h3-9,19H,1-2H2,(H2,18,20);1H
